US05045541
A mixture of 20 g of 6-methoxy-1-oxo-1,2,3,4-tetrahydronaphthalene-2-acetic acid, 10.9 g of 2-hydrazinopyridine and 150 ml of ethanol is heated under reflux for 2 hours. The resulting crystals are collected, whereto 50 ml of acetic acid is added. The mixture is heated under reflux for 30 minutes. Acetic acid is distilled off under reduced pressure, and water is added to the residue. The resultant crystals are collected and recrystallized from chloroform - ethanol to give 21.5 g of 8-methoxy-2-(2-pyridyl)-4,4a,5,6-tetrahydrobenzo[h]cinnolin-3(2H)-one as white crystals, m.p. 194°-196° C.

reactant | 6-methoxy-1-oxo-1,2,3,4-tetrahydronaphthalene-2-acetic acid | 20 g | COC=1C=C2CCC(C(C2=CC1)=O)CC(=O)O | C13H14O4
reactant | 2-hydrazinopyridine | 10.9 g | N(N)C1=NC=CC=C1 | C5H7N3
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 8-methoxy-2-(2-pyridyl)-4,4a,5,6-tetrahydrobenzo[h]cinnolin-3(2H)-one | 21.5 g | COC=1C=CC2=C(CCC3CC(N(N=C23)C2=NC=CC=C2)=O)C1 | C18H17N3O2
